US08106211B2
4-[[(6-Chloropyridin-3-yl)methyl]amino]furan-2(5H)-one (cf. EP 0539588 A1)
On a water separator, 5.00 g (35.1 mmol) of 1-(6-chloropyridin-3-yl)methylamine, 3.51 g (35.1 mmol) of tetronic acid and 20 mg (0.12 mmol) of 4-toluenesulphonic acid in 200 ml of toluene are heated under reflux for 24 hours. The reaction mixture is concentrated, and the residue that remains is then purified by column chromatography on silica gel (silica gel 60—Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate. This gives 4.96 g (63% of theory) of 4-[[(6-chloropyridin-3-yl)methyl]amino]furan-2(5H)-one, which can be used for subsequent reactions.

reactant | water | O | H2O
reactant | 1-(6-chloropyridin-3-yl)methylamine | 35.1 mmol, 5.00 g | ClC1=CC=C(C=N1)CN | C6H7ClN2
reactant | tetronic acid | 35.1 mmol, 3.51 g | C1C(=O)COC1=O | C4H4O3
reactant | 4-toluenesulphonic acid | 0.12 mmol, 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[[(6-Chloropyridin-3-yl)methyl]amino]furan-2(5H)-one | ClC1=CC=C(C=N1)CNC1=CC(OC1)=O | C10H9ClN2O2
